US04444766
The racemic α-methyl-β-hexadecylmercapto-propionic acid methyl ester described in Example 33 was saponified with 2 N sodium hydroxide under reflux. There was obtained racemic α-methyl-β-hexadecylmercaptopropionic acid, in 91% yield, melting point 53°-56° C.

reactant | racemic α-methyl-β-hexadecylmercapto-propionic acid methyl ester | COC(C(CSCCCCCCCCCCCCCCCC)C)=O | C21H42O2S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
product | racemic α-methyl-β-hexadecylmercaptopropionic acid | 91% yield | CC(C(=O)O)CSCCCCCCCCCCCCCCCC | C20H40O2S
